US07241785B2
A mixture of ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)propenoate (2.70 g), 5% palladium-carbon (3.00 g) and tetrahydrofuran (100 ml) was stirred under a hydrogen atmosphere at room temperature for 3 hrs. Palladium-carbon was filtered off and the filtrate was concentrated. The obtained crystals were collected by filtration to give ethyl 3-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)propionate (1.78 g, yield 89%), which was then recrystallized from ethyl acetate-hexane. melting point: 123–124° C.

reactant | ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)propenoate | 2.70 g | C(C1=CC=CC=C1)OC1=NN(C=C1/C=C/C(=O)OCC)C1=CC=CC=C1 | C21H20N2O3
catalyst | palladium-carbon | 3.00 g | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 3-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)propionate | 1.78 g, yield 89% | C(C1=CC=CC=C1)OC1=NN(C=C1CCC(=O)OCC)C1=CC=CC=C1 | C21H22N2O3
